US05756538
Tectochrysin (5-hydroxy-7-methoxyflavone).
Prepared from chrysin by warming with one equivalent of dimethyl sulphate in DMF with finely ground K2CO3. Fine, light yellow needles, mp 175°-180° C. (lit. 163° C.). 1H NMR δ (DMSO-d6) 3.87 (s,OCH3), 6.39 (d, J=1.7 Hz, H-6), 6.80 (d, J=1.7 Hz, H-8). 7.02 (s,H-3), 7.58 (dd, J=J'=7.8 Hz, H-3'/5'), 7.60 (tt, J≈7.8 Hz, H-4'), 8.09 (d,J=7.8 Hz, H-2'/6'), 12.80 (s, C-5-OH).

reactant | chrysin | C=1C=CC(=CC1)C2=CC(=O)C=3C(=CC(=CC3O2)O)O | C15H10O4
reactant | dimethyl sulphate | one equivalent | S(=O)(=O)(OC)OC | C2H6O4S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | Tectochrysin | COC1=CC(=C2C(=C1)OC(=CC2=O)C3=CC=CC=C3)O | C16H12O4
